*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.80e-04[uF]/630[V]
* Murata P/N :GCM21A5C2J181FX01
* Property : C = 1.80e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2J181FX01 Port1 Port2
C01 Port1 N01 1.80e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 1.57e-10
R03 N02 N03 9.35e-02
C04 N03 N04 2.18e-07
R04 N03 N04 6.80e-02
C05 N04 N05 1.28e-09
L05 N04 N05 1.07e-11
R05 N04 N05 4.83e-01
C06 N05 N06 1.37e-10
L06 N05 N06 3.39e-11
R06 N05 N06 1.71e+00
C07 N06 N07 8.86e-11
L07 N06 N07 1.31e-11
R07 N06 N07 8.59e-01
C08 N07 N08 2.46e-12
L08 N07 N08 1.38e-10
R08 N07 N08 3.73e+01
C09 N08 Port2 1.25e-12
L09 N08 Port2 2.25e-10
R09 N08 Port2 3.16e+02
.ENDS GCM21A5C2J181FX01
